US06034087
Preparation of 1-O-benzyl-2-(carboxymethylthio)glycerol
1-O-Benzyl-3-O-t-butyldimethylsilyl-2-(ethoxycarbonylmethylthio)glycerol (1 g) was added to a solvent mixture of water (8 ml) and methanol (16 ml), and potassium hydroxide (1 g) added thereto and the mixture stirred overnight at room temperature. The reaction mixture was extracted with ethyl ether twice to remove the impurities, and the pH of the extract was adjusted to 1 to 2 with 6N hydrochloric acid. Then the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain the desired product (0.6 g).

reactant | 1-O-Benzyl-3-O-t-butyldimethylsilyl-2-(ethoxycarbonylmethylthio)glycerol | 1 g | C(C1=CC=CC=C1)OCC(OSCC(=O)OCC)CO[Si](C)(C)C(C)(C)C | C20H34O5SSi
reactant | water | 8 ml | O | H2O
reactant | potassium hydroxide | 1 g | [OH-].[K+]
solvent | methanol | 16 ml | CO | CH4O
product | 1-O-benzyl-2-(carboxymethylthio)glycerol | 0.6 g | C(C1=CC=CC=C1)OCC(OSCC(=O)O)CO | C12H16O5S
